US04414390
6-Nitro-8-hydroxy-3,4-dihydrocarbostyril (10 g) and potassium carbonate (13.3 g) were mixed with acetone (70 ml) and water (70 ml) and the mixture was refluxed with adding dropwise 12.1 g of dimethyl sulfate. After refluxing was continued for 4 hours, the reaction mixture was cooled, and crystals which precipitated were collected by filtration and washed with water to give 8.22 g of 6-nitro-8-methoxy-3,4-dihydrocarbostyril.

reactant | 6-Nitro-8-hydroxy-3,4-dihydrocarbostyril | 10 g | [N+](=O)([O-])C=1C=C2CCC(NC2=C(C1)O)=O | C9H8N2O4
reactant | potassium carbonate | 13.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 70 ml | CC(=O)C | C3H6O
reactant | dimethyl sulfate | 12.1 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 70 ml | O | H2O
product | 6-nitro-8-methoxy-3,4-dihydrocarbostyril | 8.22 g | [N+](=O)([O-])C=1C=C2CCC(NC2=C(C1)OC)=O | C10H10N2O4
